US04303655
To dimethylformamide (1.1 g.) was dropwise added phophorus oxychloride (1.5 g.) under stirring and ice-cooling, and the mixture was stirred for 30 minutes at 40° C. To the mixture was added ethyl acetate (10 ml.), and the mixture was cooled to -20° to -10° C. with stirring. To the mixture was added a solution of 2-hydroxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetic acid, which can be represented as 2-hydroxy-2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetic acid, (1.1 g.) in ethyl acetate (15 ml.) below -20° C. under stirring, and then the mixture was stirred for 30 minutes at the same temperature. Thus obtained mixture was added all at once to the cooled solution prepared in the similar manner as in Example 1 from 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid (1.9 g.), bis(trimethylsilyl)acetamide (6 ml.) and ethyl acetate (20 ml.). The mixture was stirred for 30 minutes at -40° C. and further for 1.5 hours at -20° to -10° C. After the reaction, the reaction mixture was poured into 5% sodium bicarbonate aqueous solution, and the aqueous layer was separated. The remaining ethyl acetate layer was further extracted with 5% sodium bicarbonate aqueous solution. Thus obtained aqueous layer and the solution were combined together and washed with diethyl ether. To the aqueous layer was added ethyl acetate, and the mixture was adjusted to pH 1 to 2 with 10% hydrochloric acid and then the ethyl acetate layer was separated. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride and then dried over magnesium sulfate. After distillation of the solvent, the residue was pulverized in diethyl ether and then collected by filtration to give pale brown powder of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-formyloxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-formyloxy-2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (0.86 g.).

reactant | oxychloride | 1.5 g | O(Cl)Cl | Cl2O
reactant | 2-hydroxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetic acid | OC(C(=O)O)C=1N=C(SC1)NC(=O)OC(C)(C)CC | C11H16N2O5S
reactant | 2-hydroxy-2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetic acid | OC(C(=O)O)C=1NC(SC1)=NC(=O)OC(C)(C)CC | C11H16N2O5S
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid | 1.9 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C10H12N6O3S2
reactant | bis(trimethylsilyl)acetamide | 6 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1.1 g | CN(C=O)C | C3H7NO
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-formyloxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)NC(=O)OC(C)(C)CC)OC=O)=O)=O | C22H26N8O8S3
